US08217032B2
[2-(2,3-Difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Charge a flask with trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (2.0 g, 3.7 mmol), 2,3 difluorophenyl boronic acid (1.17 g, 7.4 mmol) palladium dichloride bis(triphenylphosphine) (518 mg, 0.74 mmol) and cesium fluoride (5.06 g, 33.3 mmol) and add 250 mL degassed acetonitrile. Heat the mixture at 85° C. for two hours, cool the reaction and filter off any solids. Purify on an SCX column eluting with 2N ammonia/methanol. Purify further on a silica gel column eluting with a 0-10% methanol/methylene chloride gradient to give 1.3 g (70%) of the title compound: 1H-NMR (CD3OD, 400 MHz) δ7.92 (d, J=8.8 Hz, 1H); 7.54 (dd, J=8.4, 4.0 Hz, 3H); 7.43 (dd, J=8.4, 1.6 Hz, 1H); 7.31 (d, J=2.8 Hz, 1H); 7.09 (dd, J=9.2, 2.4 Hz, 1H); 7.05-6.92 (m, 3H); 6.79 (d, J=8.8 Hz, 2H); 4.10 (t, J=5.6 Hz, 2H); 3.93 (s, 3H); 2.73 (t, J=5.2 Hz, 2H); 2.50-2.50 (m, 4H); 1.62-1.57 (m, 4H); 1.48-1.43 (m, 2H).

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 3.7 mmol, 2.0 g | COC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO6S
reactant | 2,3 difluorophenyl boronic acid | 7.4 mmol, 1.17 g | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
reactant | cesium fluoride | 33.3 mmol, 5.06 g | [F-].[Cs+]
product | [2-(2,3-Difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 1.3 g, 70% | FC1=C(C=CC=C1F)C1=C(C2=CC=C(C=C2C=C1)O)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
